US07034039B2
Ethyl 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate (0.17 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give ethyl 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate hydrochloride (0.13 g, 92.9%) as crystals.

reactant | Ethyl 2-[3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate | 0.3 mmol, 0.17 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)OCC)=O)CC(C)C | C31H35N3O5S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carboxylate hydrochloride | 0.13 g, 92.9% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)C(=O)OCC)=O)CC(C)C | InChI=1S/C26H27N3O3S.ClH/c1-4-32-26(31)21-15-33-24(28-21)18-10-11-19-20(12-18)23(17-8-6-5-7-9-17)22(13-27)29(25(19)30)14-16(2)3;/h5-12,15-16H,4,13-14,27H2,1-3H3;1H
